US04788206
In the manner described in Example 99, 3,3-bis(3-fluorophenyl)-2-propenal (17.8 g) was reacted with (carbethoxymethylene)triphenylphosphorane (26.2 g) in carbon tetrachloride (200 mL) at room temperature overnight. The crude product (23 g) obtained from the usual work up was predominantly (E)-5,5-bis(3-fluorophenyl)-2,4-pentadienoic acid ethyl ester. A stirred solution of the above material (23 g) in hot methanol (200 mL) was treated in one portion with 2N sodium hydroxide solution (75 mL). After 10 minutes at reflux, the reaction had become homogeneous and most of the methanol was distilled off. The cooled solution was diluted with water (300 mL), then was extracted with dichloromethane (3×200 mL). The organic extracts were discarded, and the aqueous phase was added in a fine stream to a stirred mixture of 2N hydrochloric acid (200 mL) and ice (300 g). The resulting precipitate was filtered off, then washed with water and dried. Trituration of the crude acid with hot hexane (150 mL) furnished 18.2 g of (E)-5,5-bis(3-fluorophenyl)-2,4-pentadienoic acid mp 162°-164° C. The analytical sample was obtained from 2-propanol, mp 163.5°-165° C.

reactant | 3,3-bis(3-fluorophenyl)-2-propenal | 17.8 g | FC=1C=C(C=CC1)C(=CC=O)C1=CC(=CC=C1)F | C15H10F2O
reactant | (carbethoxymethylene)triphenylphosphorane | 26.2 g | C(=O)(OCC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
reactant | (E)-5,5-bis(3-fluorophenyl)-2,4-pentadienoic acid ethyl ester | C(C)OC(\C=C\C=C(C1=CC(=CC=C1)F)C1=CC(=CC=C1)F)=O | C19H16F2O2
reactant | sodium hydroxide | 2N, 75 mL | [OH-].[Na+]
solvent | carbon tetrachloride | 200 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | methanol | 200 mL | CO | CH4O
product | (E)-5,5-bis(3-fluorophenyl)-2,4-pentadienoic acid | 18.2 g | FC=1C=C(C=CC1)C(=C/C=C/C(=O)O)C1=CC(=CC=C1)F | C17H12F2O2
